US06194425B1
Using the general method of Example 92, 3,5-di-(1,1dimethylethyl)-4-hydroxybenzoyl chloride (0.47 g, 1.7 mmol) was reacted with 2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethaneamine (0.5 g, 1.7 mmol) to provide 0.5 g of N1-[2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]-3,5-di-(1,1-dimethylethyl)-4-hydroxybenzamide as a white powder, m.p. 248-250° C. Analysis: Calculated for C30H40N6O2: % C, 69.74; % H, 7.80; % N, 16.27; Found: % C, 69.65% H, 7.69; % N, 16.42. HRMS (EI) calcd for C30H40N6O2 (M+) 516.3212 found 516.3226

reactant | 3,5-di-(1,1dimethylethyl)-4-hydroxybenzoyl chloride | 1.7 mmol, 0.47 g | CC(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
reactant | 2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethaneamine | 1.7 mmol, 0.5 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCN)CCCC | C15H20N6
product | N1-[2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]-3,5-di-(1,1-dimethylethyl)-4-hydroxybenzamide | 0.5 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCNC(C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)=O)CCCC | C30H40N6O2
